* 1bit DFF

.param VDD=1.8
.param period = 1ns

* Models
.model nmos nmos (level=14 version=4.8.2)
.model pmos pmos (level=14 version=4.8.2)

* Simulation flags
.options acct
*.options num_threads=32
.sparse
.output Results/1bit_dff.raw

VDD vdd 0 {VDD}
VD  d   0 PULSE (0 {VDD} {period*0.25} 1p 1p {period} {period*2})
VCLK  clk  0 PULSE (0 {VDD} {period*0.1} 1p 1p {period*0.5} {period})
VCLKB clkb 0 PULSE ({VDD} 0 {period*0.1} 1p 1p {period*0.5} {period})

MTG1P d clk m1 vdd pmos w=1.1u l=0.28u 
MTG1N d clkb m1 0 nmos w=0.55u l=0.28u 
MM1P m2 m1 vdd vdd pmos w=1.1u l=0.28u 
MM1N m2 m1 0 0 nmos w=0.55u l=0.28u 
MM2P m3 m2 vdd vdd pmos w=0.6u l=0.28u 
MM2N m3 m2 0 0 nmos w=0.3u l=0.28u 
MTG2P m3 clkb m1 vdd pmos w=0.6u l=0.28u 
MTG2N m3 clk m1 0 nmos w=0.3u l=0.28u 
MTG3P m2 clkb s1 vdd pmos w=1.1u l=0.28u 
MTG3N m2 clk s1 0 nmos w=0.55u l=0.28u 
MS1P q s1 vdd vdd pmos w=1.1u l=0.28u 
MS1N q s1 0 0 nmos w=0.55u l=0.28u 
MS2P s3 q vdd vdd pmos w=0.6u l=0.28u 
MS2N s3 q 0 0 nmos w=0.3u l=0.28u 
MTG4P s3 clk s1 vdd pmos w=0.6u l=0.28u 
MTG4N s3 clkb s1 0 nmos w=0.3u l=0.28u 

.tran 1p {period*5}
 
.end