sine wave

V1 1 0 3.3
 
M1 3 2 1 1 PMOS W=10u L=0.09u
M2 3 2 0 0 NMOS W=10u L=0.09u

C1 2 0 0.1p

C2 3 0 0.1p

M3 4 3 1 1 PMOS W=10u L=0.09u
M4 4 3 0 0 NMOS W=10u L=0.09u

C3 4 0 0.1p

M5 2 4 1 1 PMOS W=10u L=0.09u
M6 2 4 0 0 NMOS W=10u L=0.09u

.tran 0.5p 20n