netlist

.output Results/single_RC.raw

* t1_pulse >> v1 >> v2 >> td >> tr >> tf >> pw >> per
V1 1 0 pulse (5 0 0 5u 5u 2u 20u)
R1 1 2 10k
C1 2 0 1n

.tran 0.01u 20u