circuit netlist
* t1_pulse >> v1 >> v2 >> td >> tr >> tf >> pw >> per

V1 1 0 pulse 0 0 5 0 1e-5 1e-5 1e-2 2e-2
R1 1 2 10k
C1 2 0 1u
C2 2 0 1p
C3 2 0 0.1p
C4 2 0 1e-17




.tran 1e-5 2.1e-2