Ring

V1 1 0 5
V2 2 0 pulse (0 5 0 0.001u 0.001u 0.01u 0.05u)
*Mnumber d g s b model W=w L=l 
M1 3 2 1 1 PMOS W=10u L=5u 
M2 3 2 0 0 NMOS W=10u L=50u
M3 4 3 1 1 PMOS W=10u L=5u 
M4 4 3 0 0 NMOS W=10u L=50u
M5 2 4 1 1 PMOS W=10u L=5u 
M6 2 4 0 0 NMOS W=10u L=50u

C1 2 0 1p
C2 3 0 1p
C3 4 0 1p

.tran 0.001u 3u