Inverter test with R

* VDD
V1 1 0 5

* Mnumber d g s b model W=w L=l
M1 3 2 1 1 PMOS W=50u L=5u
M2 3 2 0 0 NMOS W=50u L=5u
C1 4 0 1p
R1 3 4 1k

M3 5 4 1 1 PMOS W=50u L=5u
M4 5 4 0 0 NMOS W=50u L=5u
C2 6 0 1p
R2 5 6 1k

M5 7 6 1 1 PMOS W=50u L=5u
M6 7 6 0 0 NMOS W=50u L=5u
C3 2 0 1p
R3 7 2 1k

.tran 0.0005u 0.3u

