Test PMOS

* V Gate
V2 2 0 0

* VDD
*V1 1 0 pulse (0 5 0 9u 9u 2u 20u)
V1 1 0 5

* Mnumber d g s b model W=w L=l 
M1 3 2 1 1 PMOS W=100u L=100u
R1 3 0 5


.tran 1u 20u

